US06573274B1
To a suspension of 3-(2-chloro-4-(methylamino)benzyl)-2-methyl-5-(1-pentanesulfonylcarbamoyl)-3H-imidazo[4,5-b]pyridine (232 mg) in tetrahydrofuran (1.2 ml)—methanol (1.2 ml) were added acetaldehyde (106 mg), sodium cyanoborohydride (65 mg) and acetic acid (60 mg) at room temperature, and the mixture was stirred. After 2 hr, acetaldehyde (80 mg) was added and the mixture was stirred for 2 hr. The reaction mixture was diluted A with chloroform/methanol (10/1) (10 ml), washed successively with water, 1N hydrochloric acid and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was recrystallized from acetone-water to give 3-(2-chloro-4-(ethylmethylamino)benzyl)-2-methyl-5-(1-pentanesulfonylcarbamoyl)-3H-imidazo[4,5-b]pyridine (197 mg) as a white powder.

reactant | 3-(2-chloro-4-(methylamino)benzyl)-2-methyl-5-(1-pentanesulfonylcarbamoyl)-3H-imidazo[4,5-b]pyridine | 232 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(NS(=O)(=O)CCCCC)=O)C)C=CC(=C1)NC | C21H26ClN5O3S
reactant | methanol | 1.2 ml | CO | CH4O
reactant | acetaldehyde | 106 mg | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 65 mg | C(#N)[BH3-].[Na+]
reactant | acetaldehyde | 80 mg | C(C)=O | C2H4O
solvent | tetrahydrofuran | 1.2 ml | O1CCCC1 | C4H8O
solvent | chloroform methanol | 10 ml | C(Cl)(Cl)Cl.CO
solvent | acetic acid | 60 mg | C(C)(=O)O | C2H4O2
product | 3-(2-chloro-4-(ethylmethylamino)benzyl)-2-methyl-5-(1-pentanesulfonylcarbamoyl)-3H-imidazo[4,5-b]pyridine | 197 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(NS(=O)(=O)CCCCC)=O)C)C=CC(=C1)N(C)CC | C23H30ClN5O3S
